US07238689B2
9.3 g of sodium hydrosulfide hydrate (purity: 70%, 116.3 mmoles) was added to a solution of 18.7 g (105.7 mmoles) of 5,5-dimethyl-3-methylsulfonyl-2-isoxazoline (present compound No. 2-1) dissolved in 300 ml of N,N-dimethylformamide. The mixture was stirred for 2 hours. The reaction system was ice-cooled. Thereto was added a solution of 30.3 g (93.8 mmoles) of 4-bromomethyl-5-fluoro-1-phenyl-3-trifluoromethyl-1H-pyrazole dissolved in 200 ml of N,N-dimethylformamide. The mixture was stirred at 0° C. for 30 minutes to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 13.11 g (yield: 37.4%) of 5,5-dimethyl-3-(5-fluoro-1-phenyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline as a yellow oily substance.

reactant | sodium hydrosulfide hydrate | 116.3 mmoles, 9.3 g | O.[SH-].[Na+]
reactant | 5,5-dimethyl-3-methylsulfonyl-2-isoxazoline | 105.7 mmoles, 18.7 g | CC1(CC(=NO1)S(=O)(=O)C)C | C6H11NO3S
reactant | 4-bromomethyl-5-fluoro-1-phenyl-3-trifluoromethyl-1H-pyrazole | 93.8 mmoles, 30.3 g | BrCC=1C(=NN(C1F)C1=CC=CC=C1)C(F)(F)F | C11H7BrF4N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5,5-dimethyl-3-(5-fluoro-1-phenyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 13.11 g, yield: 37.4% | CC1(CC(=NO1)SCC=1C(=NN(C1F)C1=CC=CC=C1)C(F)(F)F)C | C16H15F4N3OS
